US09169259B2
A mixture of methyl 3-(8-(6-(2,5-dimethylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (150 mg, 0.34 mmol) and NaOH (150 mg, 3.75 mmol) in 1,4-dioxane (5 mL) and water (5 mL) was stirred for 2 h at 40° C. Then the mixture was concentrated to 5 mL then adjusted to pH=2 with 2M HCl. The precipitate was filtered and the solid was washed with water (2 mL) and dichloromethane (3 mL) to give 3-(8-(6-(2,5-dimethylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (86 mg, 59%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.79 (s, 1H), 9.13 (s, 1H), 8.62 (s, 1H), 8.49 (s, 1H), 8.32-8.14 (m, 3H), 7.75 (t, 1H, J=7.8 Hz), 7.54 (t, 1H, J=8.1 Hz), 6.74 (d, 1H, J=7.8 Hz), 6.23 (d, 1H, J=8.7 Hz), 4.12 (s, 2H), 2.13-2.08 (m, 2H), 1.74-1.68 (m, 2H), 1.18 (s, 3H), 1.16 (s, 3H). LC-MS: [M+H]+, 429, tR=1.708 min, HPLC: 97.23% at 214 nm, 95.49% at 254 nm, tR=6.248 min.

reactant | methyl 3-(8-(6-(2,5-dimethylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 0.34 mmol, 150 mg | CC1N(C(CC1)C)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C25H26N6O2
reactant | NaOH | 3.75 mmol, 150 mg | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 3-(8-(6-(2,5-dimethylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 86 mg, 59% | CC1N(C(CC1)C)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C24H24N6O2
